US05051413
6.3 g of E-2-formylamino-3-methyl-5-diethylphosphono-3-pentenoic acid ethylester are heated for 30 hours at 100°-100° under nitrogen in 400 ml of 4.35N hydrochloric acid. Working up as in Example 11 yields E-2-amino-3-methyl-5-phosphono-3-pentenoic acid in the form of a white powder, m.p. 168°, 1H-NMR (D2O): 1.50 (d, 3H, CH3); 2.4 (m, 2H, CH2); 4.30 (s, 1H, C(2)--H); 5.60 (m, 1H, C(4)--H).

reactant | E-2-formylamino-3-methyl-5-diethylphosphono-3-pentenoic acid ethylester | 6.3 g | C(C)OC(C(\C(=C\CP(=O)(OCC)OCC)\C)NC=O)=O | C13H24NO6P
solvent | hydrochloric acid | 4.35N, 400 ml | Cl | ClH
product | E-2-amino-3-methyl-5-phosphono-3-pentenoic acid | NC(C(=O)O)\C(=C\CP(=O)(O)O)\C | C6H12NO5P
